### PR TITLE
feat: `IsUnital` class

### PR DESCRIPTION
**Pull request by themathqueen**

### CODE REVIEW

File: LeanOA/CStarAlgebra/Extreme.lean [hunk 1]
```diff
@@ -258,6 +259,13 @@ theorem CStarAlgebra.ofExtremePtOne_mul {x : A} (hx : x ∈ extremePoints ℝ (c
...
+attribute [local instance] IsUnital.toCStarAlgebra in
+theorem CStarAlgebra.isUnital_iff :
+    IsUnital A ↔ ∃ x : A, x ∈ extremePoints ℝ (closedBall (0 : A) 1) := by
+  refine ⟨fun h ↦ ⟨1, one_mem_extremePoints_closedUnitBall⟩, fun ⟨x, hx⟩ ↦ ?_⟩
+  exact ⟨star x * x + x * star x - x * star x * (star x * x),
+    fun y ↦ ⟨ofExtremePtOne_mul hx y, mul_ofExtremePtOne hx y⟩⟩
+
 /-- The ring structure given an extreme point of the closed unit ball on a non-unital
 C⋆-algebra. Only an implementation for `CStarAlgebra.ofExtremePt`. -/
 abbrev CStarAlgebra.ringOfExtremePt {x : A} (hx : x ∈ extremePoints ℝ (closedBall 0 1)) :
```
Comment (themathqueen) [inline LeanOA/CStarAlgebra/Extreme.lean]: Should we remove these abbreviations in favour of having the `IsUnital` result (then one could use `IsUnital.toCStarAlgebra`)?

File: LeanOA/IsUnital.lean [hunk 2]
```diff
@@ -0,0 +1,49 @@
...
+
+/-- A unital non-unital semiring is a semiring. -/
+noncomputable abbrev IsUnital.toSemiring [NonUnitalSemiring A] [IsUnital A] : Semiring A where
+
+/-- A unital non-unital commutative semiring is a commutative semiring. -/
+noncomputable abbrev IsUnital.toCommSemiring [NonUnitalCommSemiring A] [IsUnital A] :
+    CommSemiring A where
+
+/-- A unital non-unital ring is a ring. -/
+noncomputable abbrev IsUnital.toNonUnitalRing [NonUnitalRing A] [IsUnital A] : Ring A where
```
Comment (j-loreaux) [inline LeanOA/IsUnital.lean]:
```suggestion
noncomputable abbrev IsUnital.toRing [NonUnitalRing A] [IsUnital A] : Ring A where
```

Comment (j-loreaux) [reply LeanOA/IsUnital.lean]: Also you're missing the `CommRing` version.

File: LeanOA/IsUnital.lean [hunk 3]
```diff
@@ -0,0 +1,49 @@
...
+  isUnital := ⟨1, fun x ↦ ⟨one_mul x, mul_one x⟩⟩
+
+attribute [local instance] IsUnital.toMulOneClass
+
+/-- A unital semigroup is a monoid. -/
+noncomputable abbrev IsUnital.toMonoid [Semigroup A] [h : IsUnital A] : Monoid A where
+
+/-- A unital non-associative semiring is a non-associative semiring. -/
+noncomputable abbrev IsUnital.toNonAssocSemiring [NonUnitalNonAssocSemiring A] [IsUnital A] :
+    NonAssocSemiring A where
```
Comment (j-loreaux) [inline LeanOA/IsUnital.lean]: Missing `NonAssocCommSemiring`, `NonAssocRing`, and `NonAssocCommRing`.

File: LeanOA/IsUnital.lean [hunk 4]
```diff
@@ -0,0 +1,49 @@
...
+noncomputable abbrev IsUnital.toNonUnitalRing [NonUnitalRing A] [IsUnital A] : Ring A where
+
+attribute [local instance] IsUnital.toSemiring in
+/-- A unital non-unital algebra is an algebra. -/
+noncomputable abbrev IsUnital.toAlgebra {R} [CommSemiring R] [NonUnitalSemiring A] [Module R A]
+    [IsScalarTower R A A] [SMulCommClass R A A] [IsUnital A] : Algebra R A :=
+  .ofModule smul_mul_assoc mul_smul_comm
+
+/-- A unital non-unital C⋆-algebra is a C⋆-algebra. -/
+noncomputable abbrev IsUnital.toCStarAlgebra [NonUnitalCStarAlgebra A] [h : IsUnital A] :
```
Comment (j-loreaux) [inline LeanOA/IsUnital.lean]: Missing `CommCStarAlgebra`

**Review by j-loreaux — COMMENTED** [review]
I think we also want an `IsNotUnital` class, just like we have `NoncompactSpace`. There are some things where you really do need to know that you don't have a unit.
